US04742068
1,4-Dihydro-4,4-dimethyl-1-(4-methyl-2-thiazolyl) pyridine
In 170 ml of benzene, 4.45 l g (0.035 mole) of 3,3-dimethylglutaraldehyde was combined with 3.96 (0.035 mole) of 2-amino-4-methylthiazole under nitrogen. The reaction mixture was brought to reflux and water azeotroped off via a Dean-Stark trap. After 21 hours 0.20 g (0.001 mole) of p-toluenesulfonic acid monohydrate was added to the reaction mixture and heating continued an additional 5 hours after which the solvent was evaporated in vacuo. The crude product was purified by silica gel flash chromatography eluting with a 1% ethyl acetate/hexane solution. The eluate was evaporated in vacuo to yield 2.67 g of the title compound as a clear liquid.

reactant | 3,3-dimethylglutaraldehyde | 0.035 mole | CC(CC=O)(CC=O)C | C7H12O2
reactant | 2-amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
reactant | p-toluenesulfonic acid monohydrate | 0.001 mole, 0.20 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 170 ml | C1=CC=CC=C1 | C6H6
product | 1,4-Dihydro-4,4-dimethyl-1-(4-methyl-2-thiazolyl) pyridine | 2.67 g | CC1(C=CN(C=C1)C=1SC=C(N1)C)C | C11H14N2S
